US04496572
Sulphuryl chloride (3.38 g) was added dropwise to a stirred solution of 2-methylbenzo[b]thiophene-5-carboxylic acid methyl ester (5.15 g) in chloroform (50 ml). The resulting solution was heated under reflux for 2 hours, cooled, washed with water, dried (Na2SO4) and evaporated. The residue was crystallised from methanol/water to give 3-chloro-2-methylbenzo[b]thiophene-5-carboxylic acid methyl ester, 3.00 g, m.p. 85°-86°.

reactant | Sulphuryl chloride | 3.38 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-methylbenzo[b]thiophene-5-carboxylic acid methyl ester | 5.15 g | COC(=O)C1=CC2=C(SC(=C2)C)C=C1 | C11H10O2S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-2-methylbenzo[b]thiophene-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(SC(=C2Cl)C)C=C1 | C11H9ClO2S
